US05233018
In an Erlenmeyer flask were charged 40.0 g (0.2 mol) of tetrafluorophthalonitrile and 0.1 liter of DMF. The flask containing the mixture was immersed in an ice-water bath to keep the mixture at 0° to 5° C. To the mixture was added portionwise in 10 minutes 11.3 g (0.05 mol) of disodium tetrafluorohydroquinone. The resulting mixture was stirred at that temperature for 20 minutes and then at room temperature for 30 minutes. Thereafter, the reaction mixture was treated in the same manner as in Example 16 and the product was identified in the same manner as in Example 16. Thus 14.6 g of 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrafluorobenzene was obtained in a yield of 54%.

reactant | tetrafluorophthalonitrile | 0.2 mol, 40.0 g | FC=1C(=C(C(=C(C1C#N)C#N)F)F)F | C8F4N2
reactant | disodium tetrafluorohydroquinone | 0.05 mol, 11.3 g | FC1=C(C(=C(C(=C1O)F)F)O)F.[Na].[Na]
solvent | DMF | 0.1 liter | CN(C)C=O | C3H7NO
product | 1,4-bis(3,4-dicyanotrifluorophenoxy)tetrafluorobenzene | 14.6 g, yield of 54% | C(#N)C=1C(=C(OC2=C(C(=C(C(=C2F)F)OC2=C(C(=C(C(=C2F)F)C#N)C#N)F)F)F)C(=C(C1C#N)F)F)F | C22F10N4O2
